US06884886B2
7-Bromo-5-(2-chlorophenyl)-1,3-dihydrothieno[2,3-e]-1,4-diazepine-2-one, (1)
220 g (0.746 mol) of 2-amino-N-[3-(2-chlorobenzoyl)thiophen-2-yl]acetamide (prepared by reacting 2-amino-3-(2-chlorobenzoyl)thiophene with bromoacetylbromide and subsequently piping in gaseous ammonia) are added at 110° C. to a mixture of 1.8 l of n-butanol and 150 ml of glacial acetic acid. The mixture is refluxed for 1 hour, cooled to ambient temperature and 330 ml of pyridine and 57 ml (178.8 g, 1.12 mol) of bromine are added with cooling. Then the mixture is stirred for another 0.5 to 2 hours, cooled to 5 to 10° C. and stirred for a further 2 hours at this temperature. The product that crystallises out is isolated by filtration, washed with 50% ethanol and dried overnight in vacuo at 60° C.

reactant | 2-amino-N-[3-(2-chlorobenzoyl)thiophen-2-yl]acetamide | 0.746 mol, 220 g | NCC(=O)NC=1SC=CC1C(C1=C(C=CC=C1)Cl)=O | C13H11ClN2O2S
reactant | 2-amino-3-(2-chlorobenzoyl)thiophene | NC=1SC=CC1C(C1=C(C=CC=C1)Cl)=O | C11H8ClNOS
reactant | bromoacetylbromide | BrCC(=O)Br | C2H2Br2O
reactant | bromine | 1.12 mol, 57 ml, 178.8 g | BrBr | Br2
solvent | ammonia | N | H3N
solvent | pyridine | 330 ml | N1=CC=CC=C1 | C5H5N
solvent | acetic acid | 150 ml | C(C)(=O)O | C2H4O2
solvent | n-butanol | 1.8 l | C(CCC)O | C4H10O
product | 7-Bromo-5-(2-chlorophenyl)-1,3-dihydrothieno[2,3-e]-1,4-diazepine-2-one | BrC1=CC2=C(NC(CN=C2C2=C(C=CC=C2)Cl)=O)S1 | C13H8BrClN2OS
